US06627644B2
To a solution of N-[7-(ethyl-piperidin-4-ylmethyl-amino)-5,6,7,8-tetrahydro-naphthalen-2-yl]-2,2,2-trifluoro-acetamide (1.7 mmol) in methylene chloride (20 mL) under an inert atmosphere was added triethylamine (1.0 mL, 6.6 mmol) and isopropyl isocyanate (230 μL, 2.3 mmol). The reaction was stirred for 20 h and then concentrated in vacuo. This material was partitioned between 5% KOH and water. The organic layer was dried (MgSO4) and concentrated to afford 4-({ethyl-[7-(2,2,2-trifluoro-acetylamino)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amino}-methyl)-piperidine-1-carboxylic acid isopropylamide as a clear oil (630 mg).

reactant | N-[7-(ethyl-piperidin-4-ylmethyl-amino)-5,6,7,8-tetrahydro-naphthalen-2-yl]-2,2,2-trifluoro-acetamide | 1.7 mmol | C(C)N(C1CCC=2C=CC(=CC2C1)NC(C(F)(F)F)=O)CC1CCNCC1 | C20H28F3N3O
reactant | triethylamine | 6.6 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | isopropyl isocyanate | 2.3 mmol, 230 μL | C(C)(C)N=C=O | C4H7NO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-({ethyl-[7-(2,2,2-trifluoro-acetylamino)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amino}-methyl)-piperidine-1-carboxylic acid isopropylamide | 630 mg | C(C)(C)NC(=O)N1CCC(CC1)CN(C1CC2=CC(=CC=C2CC1)NC(C(F)(F)F)=O)CC | C24H35F3N4O2
